US05710173
Reaction of 3-phenoxythiophen-2-carboxaldehyde and benzylaminosulfonylacetonitrile as in Example 1 gave (E)-2-(benzylaminosulfonyl)-3-(3-phenoxythien-2-yl)acrylonitrile

reactant | 3-phenoxythiophen-2-carboxaldehyde | O(C1=CC=CC=C1)C1=C(SC=C1)C=O | C11H8O2S
reactant | benzylaminosulfonylacetonitrile | C(C1=CC=CC=C1)NS(=O)(=O)CC#N | C9H10N2O2S
product | (E)-2-(benzylaminosulfonyl)-3-(3-phenoxythien-2-yl)acrylonitrile | C(C1=CC=CC=C1)NS(=O)(=O)\C(\C#N)=C\C=1SC=CC1OC1=CC=CC=C1 | C20H16N2O3S2
